US06274536B1
1-Benzyl-3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-[1H]-pyridine-2-thione
0.50 g of 1-benzyl-3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-[1H]-pyridin-2-one is introduced into 5 ml of toluene, 0.63 g of Lawesson's reagent is added and the resulting yellow suspension is stirred overnight at 120° C. The next day, the mixture is cooled to 22° C., diluted with methylene chloride and, after the addition of 3 g of silica gel, concentrated to dryness in vacuo. The silica gel is applied to a flash chromatography column and eluted first with toluene/ethyl acetate 30/1 (v/v) and then with n-hexane/ethyl acetate 2/1 (v/v). 0.32 g of the desired title compound is obtained in the form of a yellow solid having a melting point of 135-138° C.

reactant | 1-benzyl-3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-[1H]-pyridin-2-one | 0.50 g | C(C1=CC=CC=C1)N1C(C(=CC(=C1C1=NN(C(=C1Cl)OC(F)F)C)F)Cl)=O | C17H12Cl2F3N3O2
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | Lawesson's reagent | 0.63 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-[1H]-pyridine-2-thione | 0.32 g | C(C1=CC=CC=C1)N1C(C(=CC(=C1C1=NN(C(=C1Cl)OC(F)F)C)F)Cl)=S | C17H12Cl2F3N3OS
